US09216980B2
Preparation of 3-Chloro-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-amino-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (45.4 mg, 0.134 mmol) in 2M aqueous sulfuric acid (2.0 mL) and AcOH (1.0 mL) was cooled to 0° C. and treated with a solution of sodium nitrite (10.2 mg, 0.147 mmol) in water (0.30 mL). After 20 min, the solution of the diazonium salt was added slowly to a cooled (0° C.) solution of copper (I) chloride (29.1 mg, 0.294 mmol) in 1M hydrochloric acid (0.60 mL). The reaction mixture was allowed to warm to ambient temperature then diluted with DCM and water. The layers were separated, the aqueous phase extracted further with DCM, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. The resultant residue was dissolved in ethyl acetate and pre-absorbed onto silica gel and purified by flash chromatography (silica, 4 g column, Biotage, 1-50% EtOAc in heptane) to afford the title compound as a yellow-orange solid (20 mg, 43%). LCMS (Method D): RT=3.61 min, M+H+=359/361.

reactant | 3-amino-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.134 mmol, 45.4 mg | NC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H21N5OSi
reactant | sodium nitrite | 0.147 mmol, 10.2 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1M, 0.60 mL | Cl | ClH
solvent | sulfuric acid | 2M, 2.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | AcOH | 1.0 mL | CC(=O)O | C2H4O2
solvent | water | 0.30 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper (I) chloride | 0.294 mmol, 29.1 mg | [Cu]Cl
product | 3-Chloro-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 20 mg, 43% | ClC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H19ClN4OSi
